US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-{[3-(4-methylpiperazin-1-yl)propyl]amino}-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile was reacted with 3-(4-methylpiperazin-1-yl)propan-1-amine. The crude product was purified by flash column chromatography (10% methanol in methylene chloride) to give a yellow solid (0.102 g, 71%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.8 (m, 2 H) 2.2 (s, 3 H) 2.4 (m, 8 H) 3.3 (m, 4 H) 6.9 (m, 2 H) 7.4 (s, 1 H) 7.5 (t, J=9.0 Hz, 1 H) 7.6 (d, J=7.1 Hz, 1 H) 8.3 (s, 1 H) 8.8 (s, 1 H) 9.7 (s, 1 H).

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | 3-(4-methylpiperazin-1-yl)propan-1-amine | CN1CCN(CC1)CCCN | C8H19N3
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[3-(4-methylpiperazin-1-yl)propyl]amino}-1,7-naphthyridine-3-carbonitrile | 0.102 g, 71% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)NCCCN1CCN(CC1)C)C#N | C23H25ClFN7
